US07632861B2
1-(2-(1,3-Dioxan-2-yl)phenyl)-2-(3,5-bis(trifluoromethyl)benzyloxy)ethanone.
To a solution of 2-(3,5-bis(trifluoromethyl)benzyloxy)-N-methoxy-N-methylacetamide (5.0 g, 14 mmol) in tetrahydrofuran (20 mL, 247 mmol) at −78° C. was added (2-(1,3-dioxan-2-yl)phenyl)magnesium bromide (0.25M in tetrahydrofuran) (64 mL). The ice bath was replaced with a 0° C. bath and stirring continued for 1 h. The reaction was quenched by addition of saturated ammonium chloride. The mixture was diluted with pentane and the layers separated. The organics were washed with water, then brine, dried over magnesium sulfate, and concentrated. Flash chromatography (12% EtOAc/Hex) gave 3.20 g (49%) as a white crystalline solid. 1H-NMR (CDCl3, 300 MHz) δ 7.80 (s, 2H), 7.78 (s, 1H), 7.70 (d, J=7.6 Hz, 1H), 7.44 (m, 1H), 7.33 (m, 2H), 5.87 (s, 1H), 4.70 (s, 2H), 4.61 (s, 2H), 4.16 (dd, J=11.3, 4.9 Hz, 2H), 3.92 (m, 2H), 2.11 (m, 1H), 1.38 (d, J=13.7 Hz, 1H); 13C-NMR (CDCl3, 126 MHz) δ 202.2, 140.7, 136.9, 136.1, 131.7 (q, J=33.6 Hz), 130.9, 128.4, 127.7, 126.7, 123.4 (q, J=273 Hz), 121.7, 98.7, 75.2, 71.6, 67.4, 25.7.

reactant | 2-(3,5-bis(trifluoromethyl)benzyloxy)-N-methoxy-N-methylacetamide | 14 mmol, 5.0 g | FC(C=1C=C(COCC(=O)N(C)OC)C=C(C1)C(F)(F)F)(F)F | C13H13F6NO3
reactant | tetrahydrofuran | 247 mmol, 20 mL | O1CCCC1 | C4H8O
reactant | (2-(1,3-dioxan-2-yl)phenyl)magnesium bromide | 0.25M, 64 mL | O1C(OCCC1)C1=C(C=CC=C1)[Mg]Br
product | 1-(2-(1,3-Dioxan-2-yl)phenyl)-2-(3,5-bis(trifluoromethyl)benzyloxy)ethanone | O1C(OCCC1)C1=C(C=CC=C1)C(COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C21H18F6O4
